US04254116
5,5-Dimethyl-8-methyl-10-[4-(piperidino)-butyryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride is prepared according to the method of Example 29 by reacting equimolar quantities of 5,5-dimethyl-10-hydroxy-8-methyl-5H-[1]benzopyrano[3,4-d]pyridine and γ-piperidinobutyric acid hydrochloride in the presence of dicyclohexyl carbodiimide.

reactant | 5,5-dimethyl-10-hydroxy-8-methyl-5H-[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C)O)C=2C1=CC=NC2)C | C15H15NO2
reactant | γ-piperidinobutyric acid hydrochloride | Cl.N1(CCCCC1)CCCC(=O)O
reactant | dicyclohexyl carbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 5,5-Dimethyl-8-methyl-10-[4-(piperidino)-butyryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)C)OC(CCCN2CCCCC2)=O)C=2C1=CC=NC2)C | InChI=1S/C24H30N2O3.ClH/c1-17-14-20(28-22(27)8-7-13-26-11-5-4-6-12-26)23-18-16-25-10-9-19(18)24(2,3)29-21(23)15-17;/h9-10,14-16H,4-8,11-13H2,1-3H3;1H
